US06239142B1
N-(4-Chlorobenzyl)-7-(2-hydroxyethyl)-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide (Example No. 5) (0.250 g) in DMF (3 mL) is added K2CO3 (0.278 g) and 2-bromoethanol (0.14 mL). The reaction is heated to 100° C. and stirred for 18 h. The reaction mixture is concentrated in vacuo, and the resulting residue is partitioned between H2O (50 mL) and CH2Cl2 (50 mL). The aqueous layer is extracted with CH2Cl2 (3×50 mL). The combined organic layers are dried with MgSO4, filtered, and concentrated in vacuo to give a small amount of starting material. The desired product precipitates out of the aqueous layer as a tan solid. This material is recrystallized from methanol to yield 0.100 g (36%) of the title compound as a tan, crystalline solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(3-hydroxy-1-propynyl)thieno[2,3-b]pyridine-5-carboxamide | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C#CCO)O)C=C1 | C18H13ClN2O3S
reactant | K2CO3 | 0.278 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethanol | 0.14 mL | BrCCO | C2H5BrO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-7-(2-hydroxyethyl)-2-(3-hydroxy-1-propynyl)-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.100 g, 36% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCO)SC(=C3)C#CCO)=O)C=C1 | C20H17ClN2O4S
